US07807832B2
tert-Butyl-{4-[5-(4-fluoro-phenyl)-1H-imidazol-4-yl]-pyrimidin-2-yl}-amine
A mixture of 1-(2-iso-propylamino-pyrimidin-4-yl)-2-(4-fluoro-phenyl)-ethane-1,2-dione (12.5 g, 43.5 mmol), hexamethylenetetramine (12.2 g, 87.1 mmol), NH4OAc (17 g, 220 mmol), and Na2SO4 (12 g) in AcOH (150 mL) was heated at 65° C. After 4 h, the mixture was cooled to rt. The mixture was filtered, washing with AcOH. The filtrate was concentrated, and the residue was dissolved in CH2Cl2. The organic solution was washed with 1 N NaOH, dried (Na2SO4), and concentrated. The crude product was purified by column chromatography (MeOH/hexanes) to afford the title compound as a light yellow solid (6.8 g, 52%). TLC (10% MeOH/CH2Cl2): Rf=0.21. 1H NMR: 8.13 (br s, 1H), 7.84 (br s, 1H), 7.61 (br s, 2H), 7.14 (t, J=7.8 Hz, 2H), 6.87 (br s, 1H), 5.31 (br s, 1H), 4.14 (br s, 1H), 1.26 (d, J=9.8 Hz, 6H). HRMS (ESI): [M+H]+calcd. for C16H17FN5, 298.1463; found, 298.1461.

reactant | 1-(2-iso-propylamino-pyrimidin-4-yl)-2-(4-fluoro-phenyl)-ethane-1,2-dione | 43.5 mmol, 12.5 g | C(C)(C)NC1=NC=CC(=N1)C(C(=O)C1=CC=C(C=C1)F)=O | C15H14FN3O2
reactant | hexamethylenetetramine | 87.1 mmol, 12.2 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | Na2SO4 | 12 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | AcOH | 150 mL | CC(=O)O | C2H4O2
product | tert-Butyl-{4-[5-(4-fluoro-phenyl)-1H-imidazol-4-yl]-pyrimidin-2-yl}-amine | 6.8 g, 52% | C(C)(C)(C)NC1=NC=CC(=N1)C=1N=CNC1C1=CC=C(C=C1)F | C17H18FN5
